US08859580B2
4-Methoxy-9-aza-tricyclo[6.3.1.0*2,7*]dodeca-2,4,6-triene
1 M Borane tetrahydrofuran complex (70 mL) is added dropwise to a solution of 4-methoxy-9-aza-tricyclo[6.3.1.0*2,7*]dodeca-2,4,6-trien-10-one (3.0 g) in THF (20 mL) chilled in an ice bath. The resulting solution is stirred at reflux temperature for 5 h and then at room temperature overnight. The solution is cooled to ca. −10° C. and half-concentrated hydrochloric acid (50 mL) is added carefully. The mixture is stirred at room temperature for 1 h and an additional hour at reflux temperature. The solvent is removed and 2 M NaOH solution (50 mL) is added to the residue. The resulting mixture is extracted with dichloromethane and the combined organic extracts are dried (MgSO4). After removal of the solvent, the residue is taken up in ethanol (20 mL) and the resulting solution is treated with oxalic acid (3 mL) to obtain the oxalate salt of the title compound.

reactant | 4-methoxy-9-aza-tricyclo[6.3.1.0*2,7*]dodeca-2,4,6-trien-10-one | 3.0 g | COC=1C=C2C3CC(NC(C2=CC1)C3)=O | C12H13NO2
reactant | hydrochloric acid | 50 mL | Cl | ClH
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 4-Methoxy-9-aza-tricyclo[6.3.1.0*2,7*]dodeca-2,4,6-triene | COC=1C=C2C3CCNC(C2=CC1)C3 | C12H15NO
